US04714492
3.8 g of 3-methoxycarbonyl-6-methyl-2-phenyl-4-pyrone, 33.3 ml of methanol, 13.3 ml of 40% aqueous methylamine and 2 ml of glacial acetic acid are mixed in a stoppered flask at room temperature and stored for 18 hours. The reaction mixture is then poured into approximately 100 ml of water and the pH is adjusted to 5 (addition of dilute HCl). Extraction with methylene chloride (3×50 mls) and evaporation of the organic siolvent yields 3.0 g of methyl 1,6-dimethyl-2-phenyl-4-oxonicotinate as a crystalline solid. mp (methylene chloride/ether)=226°-228° C.

reactant | 3-methoxycarbonyl-6-methyl-2-phenyl-4-pyrone | 3.8 g | COC(=O)C1=C(OC(=CC1=O)C)C1=CC=CC=C1 | C14H12O4
reactant | methanol | 33.3 ml | CO | CH4O
reactant | methylamine | 13.3 ml | CN | CH5N
reactant | HCl | Cl | ClH
solvent | water | approximately 100 ml | O | H2O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | methyl 1,6-dimethyl-2-phenyl-4-oxonicotinate | 3.0 g | CN1C(=C(C(=O)OC)C(C=C1C)=O)C1=CC=CC=C1 | C15H15NO3
